US08686628B2
Step 2: Synthesis method of 9-{4-[N-(1-naphthyl)-N-(9-phenylcarbazole-3-yl)amino]phenyl}-10-phenylanthracene (abbreviation: PCNPA)
2.0 g (5.0 mmol) of 9-phenyl-10-(4-bromophenyl)anthracene (PA), 1.9 g (5.0 mmol) of 3-[N-(1-naphthyl)amino]-9-phenylcarbazole (PCN), 2.1 g (20 mmol) of t-butoxysodium (abbreviation: t-BuONa) were put in a 100 mL three neck flask, and nitrogen was substituted for air in the flask, and then 40 mL of toluene and 0.1 mL of tri(t-butyl)phosphine (10 wt % hexane solution) (abbreviation: P(tBu)3) were added, and the 100 mL three neck flask was depressurized and degassed. After degassing, 30 mg (0.05 mmol) of bis(dibenzylideneacetone)palladium(0) was added, and stirred for 3 hours at 80° C. After reaction, a reaction solution was washed with water and saturated saline in this order, and then an organic layer was dried with magnesium sulfate. After natural filtration, a solid which was obtained by concentrating the filtrate was purified with silica gel column chromatography (hexane:toluene=7:3). When a target substance was recrystallized with dichloromethane hexane, 1.5 g of a yellow-solid target substance was obtained in a yield of 43% (Synthesis Scheme (g-2)). This compound was measured by a nuclear magnetic resonance (NMR) method and confirmed to be was PCNPA.

reactant | 9-phenyl-10-(4-bromophenyl)anthracene | 5.0 mmol, 2.0 g | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=C(C=C1)Br | C26H17Br
reactant | 3-[N-(1-naphthyl)amino]-9-phenylcarbazole | 5.0 mmol, 1.9 g | C1(=CC=CC2=CC=CC=C12)NC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C28H20N2
reactant | t-butoxysodium | 20 mmol, 2.1 g | C(C)(C)(C)O[Na]
reactant | tri(t-butyl)phosphine | 0.1 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.05 mmol, 30 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 9-{4-[N-(1-naphthyl)-N-(9-phenylcarbazole-3-yl)amino]phenyl}-10-phenylanthracene | 1.5 g, yield of 43% | C1(=CC=CC2=CC=CC=C12)N(C=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1)C1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C54H36N2
